* D:\Users\traek\source\repos\ElectronicsNotes\Electronics\LTSpice\VoltageDivider02.asc
V1 n1 0 5
R1 n1 n2 100
R2 n2 0 200
R3 n2 0 50Meg
.op
* To measure voltage across a resistor\nsubtract the after it from the one before it\nv(n1)-v(n2)\nThe last connection doesn't have a net name.\nRight-click on voltage to see the calculation
* Fluke voltmeter Equivalent
.backanno
.end
